US06900215B2
3-(5-Bromo-2-fluorophenyl)pyridine-2-carbonitrile was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine by the method of Example 32. Purification by chromatography on silica gel eluting with dichloromethane containing 4% methanol, then crystallisation from hot toluene, gave 3-[2-fluoro-5-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)phenyl]pyridine-2-carbonitrile: δH (400 MHz, DMSO) 9.39 (1H, d, J 7), 8.87 (1H, dd, J 5 and 1.5), 8.33 (1H, s), 8.30 (1H, dd, J 8 and 1), 8.09 (1H, dd, J 7 and 2), 8.00-8.03 (1H, m), 7.94 (1H, dd, J 8 and 5), 7.72 (1H, dd, J 10 and 9), 7.54 (1H, d, J 7); m/z (ES+) 384.

reactant | 3-(5-Bromo-2-fluorophenyl)pyridine-2-carbonitrile | BrC=1C=CC(=C(C1)C=1C(=NC=CC1)C#N)F | C12H6BrFN2
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[2-fluoro-5-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)phenyl]pyridine-2-carbonitrile | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C=2C(=NC=CC2)C#N | C19H9F4N5
